US04588749
2-Hydroxy-2-(3-trifluoromethylphenyl)ethanoic acid
A solution of 3-trifluoromethylbenzaldehyde (69.2 g) in ether (250 ml) was shaken with a solution of sodium metabisulphite (84.5 g) in water (85 ml). The mixture was cooled in the refrigerator overnight, the solid was collected, washed with a little propan-2-ol and dried (120 g). The bisulphite addition complex was suspended in a mixture of water (70 ml) and ether (250 ml) with rapid stirring during the addition of a solution of potassium cyanide (28.5 g) in water (85 ml). The mixture was stirred until all the solid was dissolved and the two layers were clear (ca 2 h). The ethereal layer was separated, evaporated and hydrochloric acid (400 ml) was added. The mixture was stirred on the steam bath for 5 h, cooled. The residue was taken up in the minimum amount of 4N sodium hydroxide solution, washed with ether, acidified with hydrochloric acid and extracted into chloroform. The chloroform extracts were dried and evaporated to an oil (61.8 g) which crystallised on standing.

reactant | 3-trifluoromethylbenzaldehyde | 69.2 g | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
reactant | sodium metabisulphite | 84.5 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | ether | 250 ml | CCOCC | C4H10O
solvent | water | 85 ml | O | H2O
product | 2-Hydroxy-2-(3-trifluoromethylphenyl)ethanoic acid | OC(C(=O)O)C1=CC(=CC=C1)C(F)(F)F | C9H7F3O3
